### PR TITLE
[Merged by Bors] - chore: add lemmas for nat literals corresponding to lemmas for nat casts

### PR DESCRIPTION
**Pull request by timotree3**
I loogled for every occurrence of `"cast", Nat` and `"natCast"` and where the casted nat was `n`, and made sure there were corresponding `@[simp]` lemmas for `0`, `1`, and `OfNat.ofNat n`. This is necessary in general for simp confluence. Example:

```lean
import Mathlib

variable {α : Type*} [LinearOrderedRing α] (m n : ℕ) [m.AtLeastTwo] [n.AtLeastTwo]

example : ((OfNat.ofNat m : ℕ) : α) ≤ ((OfNat.ofNat n : ℕ) : α) ↔ (OfNat.ofNat m : ℕ) ≤ (OfNat.ofNat n : ℕ) := by
  simp only [Nat.cast_le] -- this `@[simp]` lemma can apply

example : ((OfNat.ofNat m : ℕ) : α) ≤ ((OfNat.ofNat n : ℕ) : α) ↔ (OfNat.ofNat m : α) ≤ (OfNat.ofNat n : α) := by
  simp only [Nat.cast_ofNat] -- and so can this one

example : (OfNat.ofNat m : α) ≤ (OfNat.ofNat n : α) ↔ (OfNat.ofNat m : ℕ) ≤ (OfNat.ofNat n : ℕ) := by
  simp -- fails! `simp` doesn't have a lemma to bridge their results. confluence issue.
```

As far as I know, the only file this PR leaves with `ofNat` gaps is `PartENat.lean`. #8002 is addressing that file in parallel.

---

- [x] depends on: #8317

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 1]
```diff
@@ -456,11 +456,20 @@ theorem of_zero_pow (a : A 0) : ∀ n : ℕ, of A 0 (a ^ n) = of A 0 a ^ n
 instance : NatCast (A 0) :=
   ⟨GSemiring.natCast⟩
 
+
+-- TODO: These could be replaced by `map_natCast'` and `map_ofNat'` if they were
+-- marked `@[simp low]`
+-- and we added an `AddMonoidWithOne` instance added for `A 0`.
 @[simp]
 theorem ofNatCast (n : ℕ) : of A 0 n = n :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Ring.lean:464]: This got a bad name during porting it seems
```suggestion
theorem of_natCast (n : ℕ) : of A 0 n = n :=
```

File: Mathlib/Algebra/Hom/GroupInstances.lean [hunk 2]
```diff
@@ -93,6 +93,17 @@ theorem AddMonoid.End.natCast_apply [AddCommMonoid M] (n : ℕ) (m : M) :
   rfl
 #align add_monoid.End.nat_cast_apply AddMonoid.End.natCast_apply
 
+@[simp]
+theorem AddMonoid.End.zero_apply [AddCommMonoid M] (m : M) : (0 : AddMonoid.End M) m = 0 :=
+  rfl
+
+-- Note: one_apply omitted because `(1 : AddMonoid.End M) = id` by `AddMonoid.coe_one`
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupInstances.lean:100]: I think you should add it anyway, without marking it `simp`

File: Mathlib/Data/ENat/Basic.lean [hunk 3]
```diff
@@ -110,11 +110,17 @@ theorem toNat_coe (n : ℕ) : toNat n = n :=
...
+@[simp]
+theorem toNat_ofNat (n : ℕ) [n.AtLeastTwo] : toNat (no_index (OfNat.ofNat n)) = n :=
+  rfl
+
 @[simp]
 theorem toNat_top : toNat ⊤ = 0 :=
   rfl
 #align enat.to_nat_top ENat.toNat_top
 
+
```
Comment (eric-wieser) [inline Mathlib/Data/ENat/Basic.lean:123]: Nit: stray blank line

File: Mathlib/Data/Nat/Cast/Order.lean [hunk 4]
```diff
@@ -72,6 +86,19 @@ theorem cast_pos' {n : ℕ} : (0 : α) < n ↔ 0 < n := by cases n <;> simp [cas
 theorem cast_pos {α} [OrderedSemiring α] [Nontrivial α] {n : ℕ} : (0 : α) < n ↔ 0 < n := cast_pos'
 #align nat.cast_pos Nat.cast_pos
 
+-- See also `Nat.ofNat_pos`, specialised for an `OrderedSemiring`.
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Order.lean:89]: I think this should be a `/--` comment so that it appears in the docs.

File: Mathlib/Data/Rat/NNRat.lean [hunk 5]
```diff
@@ -208,12 +208,13 @@ def coeHom : ℚ≥0 →+* ℚ where
 
 @[simp, norm_cast]
 theorem coe_natCast (n : ℕ) : (↑(↑n : ℚ≥0) : ℚ) = n :=
-  map_natCast coeHom n
+  rfl
 #align nnrat.coe_nat_cast NNRat.coe_natCast
 
+-- See note [no_index around OfNat.ofNat]
 @[simp]
-theorem mk_coe_nat (n : ℕ) : @Eq ℚ≥0 (⟨(n : ℚ), n.cast_nonneg⟩ : ℚ≥0) n :=
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/NNRat.lean:215]: I think this might have been a hack to ensure the implicit argument to `Eq` was really `NNRat` and not `Subtype _`

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 6]
```diff
@@ -1288,37 +1288,106 @@ theorem mk_fin (n : ℕ) : #(Fin n) = n := by simp
...
 theorem nat_lt_lift_iff {n : ℕ} {a : Cardinal.{u}} : n < lift.{v} a ↔ n < a := by
   rw [← lift_natCast.{v,u}, lift_lt]
 #align cardinal.nat_lt_lift_iff Cardinal.nat_lt_lift_iff
 
+@[simp]
+theorem ofNat_lt_lift_iff {a : Cardinal.{u}} {n : ℕ} [n.AtLeastTwo] :
+    (no_index (OfNat.ofNat n : Cardinal)) < lift.{v} a ↔ (OfNat.ofNat n : Cardinal) < a :=
+  nat_lt_lift_iff
+
+-- TODO: remove if CI says these can all be proved by simp
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Basic.lean:1358]: Was the conclusion that they could?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 7]
```diff
@@ -2306,39 +2306,45 @@ theorem one_add_nat_cast (m : ℕ) : 1 + (m : Ordinal) = succ m := by
...
 
-@[simp, norm_cast]
-theorem nat_cast_eq_zero {n : ℕ} : (n : Ordinal) = 0 ↔ n = 0 :=
-  @nat_cast_inj n 0
+instance charZero : CharZero Ordinal where
+  cast_injective _ _ := nat_cast_inj.mp
+
+/-- Alias of `Nat.cast_lt`, specialized to `Ordinal` --/
+theorem nat_cast_lt {m n : ℕ} : (m : Ordinal) < n ↔ m < n := Nat.cast_lt
+#align ordinal.nat_cast_lt Ordinal.nat_cast_lt
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:2336]: Is there a reason you reordered this lemma?

**Review by eric-wieser — APPROVED** [review]
Some minor remarks, but generally this is excellent, thanks!

It's unfortunate that we have to write all this by hand though; a `@[mk_ofNat_lemma]` attribute would be very nice

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean (hunk 7 above)
Comment (timotree3) [reply Mathlib/SetTheory/Ordinal/Arithmetic.lean:2336]: To prove it with `Nat.cast_lt`, which requires `CharZero`

File: Mathlib/Data/Rat/NNRat.lean (hunk 5 above)
Comment (timotree3) [reply Mathlib/Data/Rat/NNRat.lean:215]: I would be surprised if it could implicitly turn into `Subtype _` because `NNRat` is not `reducible`. Was this more of a risk in Lean 3?

File: Mathlib/SetTheory/Cardinal/Basic.lean (hunk 6 above)
Comment (timotree3) [reply Mathlib/SetTheory/Cardinal/Basic.lean:1358]: In fact that they couldn't! I forgot to go back and prove them

**Comment by timotree3** [comment]
Started a Zulip thread about the weird universe error in `Ordinal/Notation.lean` https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.238006.20ofNat.20lemmas/near/399143841

File: Mathlib/Data/Rat/NNRat.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Rat/NNRat.lean:215]: It turns into `Subtype` because `⟨_, _⟩` is notation for `Subtype.mk` which has the wrong return type.

Comment (timotree3) [reply Mathlib/Data/Rat/NNRat.lean:215]: Ah so this is the elusive difference between `(x : α)` and `@id α x`. Unless the former triggers a coercion, it just asserts that the type of `x` is defeq to `α`, whereas the latter actually transforms the type of the term. Is this defeq abuse a sign that this is a bad lemma and there should be `mk` function in the API of `ℚ≥0`? And I suppose using `@id ℚ≥0` or `show ℚ≥0 from` would both be inappropriate here because this is the rhs of a simp lemma so needs to be fully simplified..

Comment (eric-wieser) [reply Mathlib/Data/Rat/NNRat.lean:215]: I think this lemma is reasonable, but it does suggest a flaw in the API (which is out of scope for this PR). If you don't like the `@Eq` approach, I think something like `(by exact ⟨_,_⟩) = _` will also assign the type correctly

File: Mathlib/Algebra/CharP/Basic.lean [hunk 8]
```diff
@@ -118,6 +118,12 @@ theorem CharP.cast_eq_zero [AddMonoidWithOne R] (p : ℕ) [CharP R p] : (p : R)
   (CharP.cast_eq_zero_iff R p p).2 (dvd_refl p)
 #align char_p.cast_eq_zero CharP.cast_eq_zero
 
+-- See note [no_index around OfNat.ofNat]
+@[simp]
+theorem CharP.ofNat_eq_zero [AddMonoidWithOne R] (p : ℕ) [p.AtLeastTwo] [CharP R p] :
```
Comment (alexjbest) [inline Mathlib/Algebra/CharP/Basic.lean:123]: Does this actually work as intended?
I would think that the `p` if it was a raw nat lit would appear in `CharP` as an `ofNat` too.
I also worry a bit about making the whole LHS of a simp lemma no index, if that ends up matching everything in the discrimination tree I wonder if we would see a performance impact for simp if we have too many of them

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 9]
```diff
@@ -456,16 +456,25 @@ theorem of_zero_pow (a : A 0) : ∀ n : ℕ, of A 0 (a ^ n) = of A 0 a ^ n
 instance : NatCast (A 0) :=
   ⟨GSemiring.natCast⟩
 
+
+-- TODO: These could be replaced by `map_natCast'` and `map_ofNat'` if they were
+-- marked `@[simp low]`
+-- and we added an `AddMonoidWithOne` instance added for `A 0`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Ring.lean:462]: Why do we need the `AddMonoidWithOne` isntance, it's implied immediately by the `Semiring` instance below.

File: Mathlib/Data/Nat/Cast/Order.lean [hunk 10]
```diff
@@ -114,6 +141,42 @@ theorem cast_lt_one : (n : α) < 1 ↔ n = 0 := by
 theorem cast_le_one : (n : α) ≤ 1 ↔ n ≤ 1 := by rw [← cast_one, cast_le]
 #align nat.cast_le_one Nat.cast_le_one
 
+variable [m.AtLeastTwo] [n.AtLeastTwo]
+
+-- See note [no_index around OfNat.ofNat]
+@[simp]
+theorem ofNat_le :
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Order.lean:148]: Arguably we need versions with `ofNat` on one side and `Nat.cast` on the other too...

**Comment by eric-wieser** [comment]
!bench

File: Mathlib/Algebra/CharP/Basic.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Algebra/CharP/Basic.lean:123]: I worry this lemma might be responsible for the performance hit.

Comment (fpvandoorn) [reply Mathlib/Algebra/CharP/Basic.lean:123]: Yes, this seems like a bad simplification rule, since this simplification rule tries to match against every subexpression, IIUC. There are also a some other simplification lemmas whose pattern seems too general, and will be pretty expensive, like `ofNat_le`.

But mostly these new simp lemmas are great!

File: Mathlib/Data/Nat/Cast/Defs.lean [hunk 11]
```diff
@@ -47,11 +47,17 @@ class Nat.AtLeastTwo (n : ℕ) : Prop where
...
 
-lemma Nat.AtLeastTwo.ne_one (n : ℕ) [h : n.AtLeastTwo] : n ≠ 1 := by
-  rintro rfl; exact absurd h.1 (by decide)
+variable {n : ℕ} [n.AtLeastTwo]
+
+lemma one_lt : 1 < n := prop
+lemma ne_one : n ≠ 1 := Nat.ne_of_gt one_lt
+lemma one_le : 1 ≤ n := Nat.le_of_lt one_lt
+lemma pos : 0 < n := one_le
+lemma ne_zero : n ≠ 0 := Nat.ne_of_gt pos
```
[the remark this answers is not in the document]
Comment (timotree3) [reply Mathlib/Data/Nat/Cast/Defs.lean:58]: I don't think there is such an instance. I'll investigate adding that and removing these lemmas.

File: Mathlib/Algebra/CharP/Basic.lean (hunk 8 above)
Comment (timotree3) [reply Mathlib/Algebra/CharP/Basic.lean:123]: Hmm but this lemma is necessary for simp confluence. Should I replace this with a TODO that mentions the no_index library note?

**Comment by timotree3** [comment]
Thanks for the feedback! Will try to address in the next few days

File: Mathlib/Data/Nat/Cast/Order.lean (hunk 10 above)
Comment (timotree3) [reply Mathlib/Data/Nat/Cast/Order.lean:148]: Good point. Will add

File: Mathlib/Algebra/CharP/Basic.lean (hunk 8 above)
Comment (fpvandoorn) [reply Mathlib/Algebra/CharP/Basic.lean:123]: simp confluence is important to have, but is it worth it if it makes simp (much) slower? 

I'm wondering if we should start a small list of additional simp sets, that you can opt-in to, e.g. `simp [confluence]` is a simp-set where we try really hard to be confluent.

**Comment by eric-wieser** [comment]
Since this PR is a performance issue, and quite large, I think it might be worth splitting it slightly. I've split out #8316 with the comment-only changes, since that will reduce the number of files touched in this PR, and should be an easy review!

File: Mathlib/Algebra/CharP/Basic.lean (hunk 8 above)
Comment (timotree3) [reply Mathlib/Algebra/CharP/Basic.lean:128]: I removed `@[simp]` and added a TODO for now. Hopefully we can make this `simp` once the core bug requiring `no_index` is fixed (https://github.com/leanprover/lean4/issues/2867)

File: Mathlib/Data/Nat/Cast/Defs.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (timotree3) [reply Mathlib/Data/Nat/Cast/Defs.lean]: Adding `import Mathlib.Algebra.NeZero` triggered this `assert_not_exists`. What's the right way to address this error?

https://github.com/leanprover-community/mathlib4/blob/4acfd8a235ca7c92ee2dc6d96d12a96aafcbddc7/Mathlib/Algebra/Field/Defs.lean#L178-L181

Also, `NeZero.one_le` didn't exist, so I had to add it. The code where these `NeZero` lemmas are used seems a bit less uniform now with each lemma looking a bit different to use:
- `(NeZero.ne n)` and `(NeZero.pos n)`
- `NeZero.one_le`
- `Nat.AtLeastTwo.ne_one` and `Nat.AtLeastTwo.one_lt`
- `Nat.AtLeastTwo.prop`

Would it be worth keeping these lemmas all under `Nat.AtLeastTwo` for uniformity? Maybe it doesn't matter since `exact?` can find all of them..

[the remark this answers is not in the document]
Comment (timotree3) [reply Mathlib/Data/Nat/Cast/Defs.lean]: I solved the import error by moving this instance to a later file

**Comment by timotree3** [comment]
!bench

**Comment by timotree3** [comment]
!bench

**Comment by timotree3** [comment]
I've merged master and addressed the review feedback around performance. I think this is ready

File: Mathlib/Algebra/DirectSum/Ring.lean [hunk 12]
```diff
@@ -525,9 +533,9 @@ instance : IntCast (A 0) :=
   ⟨GRing.intCast⟩
 
 @[simp]
-theorem ofIntCast (n : ℤ) : of A 0 n = n := by
+theorem of_intCast (n : ℤ) : of A 0 n = n := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Ring.lean:536]: I've split this change to #10953

File: Mathlib/Algebra/CharZero/Defs.lean [hunk 13]
```diff
@@ -100,21 +99,23 @@ theorem cast_ne_one {n : ℕ} : (n : R) ≠ 1 ↔ n ≠ 1 :=
   cast_eq_one.not
 #align nat.cast_ne_one Nat.cast_ne_one
 
+instance AtLeastTwo.instNeZero (n : ℕ) [n.AtLeastTwo] : NeZero n :=
+  ⟨Nat.ne_of_gt (Nat.le_of_lt one_lt)⟩
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/CharZero/Defs.lean:104]: I think I'd like to see this change, along with the other API changes around `AtLeastTwo`, split to its own PR. I don't think it's particularly controversial, but i'd rather it not be hidden amidst an otherwise-mechanistic patch.

File: Mathlib/Data/Nat/Cast/Defs.lean [hunk 14]
```diff
@@ -47,11 +47,14 @@ class Nat.AtLeastTwo (n : ℕ) : Prop where
...
+namespace Nat.AtLeastTwo
 
-lemma Nat.AtLeastTwo.ne_one (n : ℕ) [h : n.AtLeastTwo] : n ≠ 1 := by
-  rintro rfl; exact absurd h.1 (by decide)
+variable {n : ℕ} [n.AtLeastTwo]
+
+lemma one_lt : 1 < n := prop
+lemma ne_one : n ≠ 1 := Nat.ne_of_gt one_lt
+
+end Nat.AtLeastTwo
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Defs.lean:57]: This would go into the same split PR I describe above.

File: Mathlib/Algebra/CharZero/Defs.lean (hunk 13 above)
Comment (timotree3) [reply Mathlib/Algebra/CharZero/Defs.lean:104]: Makes sense! Done at #10964.

File: Mathlib/NumberTheory/ModularForms/SlashActions.lean [hunk 15]
```diff
@@ -108,12 +109,12 @@ private theorem slash_mul (k : ℤ) (A B : GL(2, ℝ)⁺) (f : ℍ → ℂ) :
   simp only [UpperHalfPlane.num, UpperHalfPlane.denom, ofReal_mul, Subgroup.coe_mul,
     UpperHalfPlane.coe_smul, Units.val_mul, Matrix.det_mul,
     UpperHalfPlane.smulAux, UpperHalfPlane.smulAux', UpperHalfPlane.coe_mk] at *
-  field_simp
+  field_simp -- TODO: why does this `field_simp` take about 150000 heartbeats?
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/ModularForms/SlashActions.lean:112]: Is this still true in the lastest version?

File: Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean [hunk 16]
```diff
@@ -158,6 +158,7 @@ private lemma filter_pairs_lt (k : ℕ) :
       (range k).disjiUnion (powersetCard · univ) ((pairwise_disjoint_powersetCard _).set_pairwise _)
         ×ˢ univ := by ext; aesop (add unsafe le_of_lt)
 
+set_option maxHeartbeats 400000 in
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPolynomial/NewtonIdentities.lean:161]: Please check this is still needed too

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks for your patience with this!

Please check the heartbeat bumps are still needed before merging

**Comment by eric-wieser** [comment]
!bench
